US04388317
A solution of 2-(5-dimethylaminomethyl-2-thienylmethylthio)ethylamine (1.47 g) and 2-nitroamino-5-(5-dimethylaminomethyl-2-thienylmethyl)-4-pyrimidone (2.0 g) in pyridine (10 ml) was refluxed overnight. The pyridine was removed under reduced pressure and the last traces of pyridine were removed by azeotroping with water yielding 2-(5-dimethylaminomethyl-2-thienylmethylthio)ethylamino-5-(5-dimethylaminomethyl-2-thienylmethyl)-4-pyrimidone as an oil. The resultant oil was washed by decantation with water.

reactant | 2-(5-dimethylaminomethyl-2-thienylmethylthio)ethylamine | 1.47 g | CN(C)CC1=CC=C(S1)CSCCN | C10H18N2S2
reactant | 2-nitroamino-5-(5-dimethylaminomethyl-2-thienylmethyl)-4-pyrimidone | 2.0 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1SC(=CC1)CN(C)C | C12H15N5O3S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-(5-dimethylaminomethyl-2-thienylmethylthio)ethylamino-5-(5-dimethylaminomethyl-2-thienylmethyl)-4-pyrimidone | CN(C)CC1=CC=C(S1)CSCCNC1=NC=C(C(N1)=O)CC=1SC(=CC1)CN(C)C | C22H31N5OS3
